US07476399B2
N-(benzo[d][1,3]dioxol-5-ylmethyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide
Prepared in a similar manner to example 125 using benzo[d][1,3]dioxol-5-ylmethanamine, ethyl oxalyl chloride, and 2-(2-pyridinyl)ethyl amine; yield 35%; m/e=328 [M+1].

reactant | benzo[d][1,3]dioxol-5-ylmethanamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
reactant | 2-(2-pyridinyl)ethyl amine | N1=C(C=CC=C1)CCN | C7H10N2
product | N-(benzo[d][1,3]dioxol-5-ylmethyl)-N′-(2-(pyridin-2-yl)ethyl)oxalamide | yield 35% | O1COC2=C1C=CC(=C2)CNC(C(=O)NCCC2=NC=CC=C2)=O | C17H17N3O4
